2161-09-03 05:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: s/p fall
   24 Hour Events:
   restarted Vanc/Zosyn, weaned FiO2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-9-3**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-9-3**] 02:00 AM
   Infusions:
   Propofol - 90 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-9-3**] 12:00 AM
   Fentanyl - [**2161-9-3**] 03:20 AM
   Other medications:
   Acetaminophen
   Albuterol
   Calcium Gluconate
   Chlorhexidine
   Docusate Sodium
   Fentanyl Citrate
   FoLIC Acid
   Heparin
   Insulin
   Magnesium Sulfate
   Morphine Sulfate
   Multivitamins
   Oxycodone-Acetaminophen
   Pantoprazole
   Phenytoin (Suspension)
   Piperacillin-Tazobactam Na
   Potassium Chloride
   Potassium Phosphate
   Propofol
   Senna
   Thiamine
   Vancomycin
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-9-3**] 05:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 89 (77 - 100) bpm
   BP: 117/66(78) {100/54(65) - 127/76(86)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 68 kg
   Height: 65 Inch
             Total In:
                                                                  4,014 mL
                                                                  1,132 mL
   PO:
             TF:
                                                                  1,055 mL
                                                                    347 mL
   IVF:
                                                                  2,519 mL
                                                                    785 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,010 mL
   Urine:
                                                                  3,390 mL
                                                                    980 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    604 mL
                                                                    122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (429 - 473) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.44/50/70/32/7
   Ve: 6.7 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   287 K/uL
   9.1 g/dL
   139 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.6 mEq/L
   8 mg/dL
   97 mEq/L
   134 mEq/L
   26.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2161-8-31**]  04:55 AM
                             [**2161-8-31**]  10:33 AM
                             [**2161-8-31**]  04:06 PM
                             [**2161-8-31**]  04:11 PM
                             [**2161-8-31**]  10:45 PM
                             [**2161-9-1**]  03:14 AM
                             [**2161-9-2**]  02:20 AM
                             [**2161-9-2**]  07:45 PM
                             [**2161-9-3**]  02:40 AM
                             [**2161-9-3**]  05:33 AM
   WBC
   10.9
   7.1
   Hct
   27.5
   27.4
   27.6
   27.5
   26.0
   Plt
   233
   287
   Cr
   0.4
   0.3
   0.4
   TCO2
   29
   33
   34
   35
   Glucose
   101
   97
   139
   Other labs: PT / PTT / INR:12.1/37.6/1.0, CK / CKMB /
   Troponin-T:949/20/0.06, ALT / AST:21/51, Alk Phos / T Bili:45/0.7,
   Amylase / Lipase:79/20, Differential-Neuts:88.7 %, Lymph:6.7 %,
   Mono:1.6 %, Eos:2.7 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:392 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   HPI: 45yo M s/p 20ft fall off roof with head trauma, + LOC.
   ISSUES:
   (1) Intracranial injuries s/p bolt, basilar skull frx
   (2) Left Rib frx, L acromium frx, L scapular frx
   (3) L pneumothorax s/p chest tube
   (4) Pneumonia
   Neurologic: Neuro checks Q: 4 hr, Phenytoin - therapeutic, On Ativan
   for agitation, propofol gtt, Percocet/Morphine PRN pain, plan. Recieved
   MVI, Folic Acid, Thiamine, will insert Thoracic epidural today for pain
   control
   Cardiovascular: HD Stable
   Pulmonary: Likely pneumonia, on Vanc/Zosyn.  U/S pleural effusion,
   epidural, possible extubation, otherwise trach tomorrow
   Gastrointestinal / Abdomen: Soft, non-tender, no further BRBPR
   Nutrition: Tube feeding @ goal 60 cc/hr
   Renal: Foley, Adequate UO
   Hematology: Serial Hct, stable.
   Endocrine: RISS
   Infectious Disease: Check cultures, Continue to follow BAL, on
   Vanc/Zosyn since [**8-29**]
   Lines / Tubes / Drains: Foley, NGT, ETT, L CT, PICC
   Wounds: Dry dressings
   Imaging: CXR today
   Fluids: KVO
   Consults: Trauma surgery, Vascular surgery, Ortho, GI
   Billing Diagnosis:  Respiratory Failure time 30 minutes
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-9-2**] 10:55 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-9-1**] 12:33 PM
   20 Gauge - [**2161-9-1**] 12:35 PM
   Prophylaxis:
   DVT: SQH, IVC filter
   Stress ulcer: protonix daily
   VAP:  elevation, mouth care, daily wake up, RSBI
   Comments:
   Communication:  Comments:  ICU consented
   Code status: Full code
   Disposition: TSICU

2161-09-03 06:52:00 Physician Resident Progress Note
TITLE: TSICU PROGRESS NOTE
   Chief Complaint: 45yo M s/p 20ft fall off roof with head trauma, + LOC.
   ISSUES:
   (1) Intracranial injuries s/p bolt, basilar skull frx
   (2) Left Rib frx, L acromium frx, L scapular frx
   (3) L pneumothorax s/p chest tube
   (4) Pneumonia
   24 Hour Events:
   Restarted Vanc/Zosyn
   Weaned vent
   Sodium chloride for hyponatremia, metabolic alkalosis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-9-3**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-9-3**] 02:00 AM
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-9-3**] 12:00 AM
   Fentanyl - [**2161-9-3**] 05:45 AM
   Other medications:
   1000 mL NS 3. Acetaminophen 4. Albuterol MDI 5. Calcium Gluconate 6.
   Chlorhexidine Gluconate 0.12% Oral Rinse
   7. Docusate Sodium 8. Fentanyl Citrate 9. FoLIC Acid 10. Heparin 11.
   Heparin Flush (10 units/ml) 13. Insulin 14. Lorazepam 15. Magnesium
   Sulfate 16. Morphine Sulfate 17. Multivitamins 18.
   Oxycodone-Acetaminophen 19. Pantoprazole 20. Phenytoin (Suspension) 21.
   Piperacillin-Tazobactam Na 22. Potassium Chloride
   23. Potassium Phosphate 24. Propofol 25. Senna 26. Thiamine 27.
   Vancomycin
   Changes to medical and family history:
   none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-9-3**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.1
C (98.7
   HR: 92 (76 - 110) bpm
   BP: 107/60(70) {100/54(65) - 127/76(86)} mmHg
   RR: 18 (15 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 68 kg
   Height: 65 Inch
             Total In:
                                                                  4,010 mL
                                                                  1,303 mL
   PO:
             TF:
                                                                  1,055 mL
                                                                    407 mL
   IVF:
                                                                  2,515 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,130 mL
   Urine:
                                                                  3,390 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    600 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 445 (429 - 473) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 53
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.44/50/70/32/7
   Ve: 6.7 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: Left)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   421 K/uL
   9.1 g/dL
   139 mg/dL
   0.4 mg/dL
   32 mEq/L
   3.6 mEq/L
   8 mg/dL
   97 mEq/L
   134 mEq/L
   26.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2161-8-31**]  04:55 AM
                             [**2161-8-31**]  10:33 AM
                             [**2161-8-31**]  04:06 PM
                             [**2161-8-31**]  04:11 PM
                             [**2161-8-31**]  10:45 PM
                             [**2161-9-1**]  03:14 AM
                             [**2161-9-2**]  02:20 AM
                             [**2161-9-2**]  07:45 PM
                             [**2161-9-3**]  02:40 AM
                             [**2161-9-3**]  05:33 AM
   WBC
   10.9
   7.1
   7.2
   Hct
   27.5
   27.4
   27.6
   27.5
   26.0
   26.6
   Plt
   233
   287
   421
   Cr
   0.4
   0.3
   0.4
   TCO2
   29
   33
   34
   35
   Glucose
   101
   97
   139
   Other labs: PT / PTT / INR:12.1/37.6/1.0, CK / CKMB /
   Troponin-T:949/20/0.06, ALT / AST:21/51, Alk Phos / T Bili:45/0.7,
   Amylase / Lipase:79/20, Differential-Neuts:88.7 %, Lymph:6.7 %,
   Mono:1.6 %, Eos:2.7 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL,
   LDH:392 IU/L, Ca++:7.4 mg/dL, Mg++:2.4 mg/dL, PO4:3.4 mg/dL
   Imaging: [**8-26**] CT head - Extensive skull base fractures and
   intraparenchymal,
   subarachnoid, subdural and epidural hemorrhages. Signs of increased ICP
   and R uncal herniation
   [**8-26**] CT C-spine - no Cspine Fx or malalignment
   [**8-26**] CTA head/neck - no aneurysm or dissection; mild-moderate narrowing
   of carotids at bifurcation
   [**8-26**] CTA torso - mult L rib fxs, clavicle fx, L scap fx extending into
   glenoid, edema in stomach, RLL collapse, R lung contusions, persistent
   R pneumo
   [**8-27**] CT head - slightly increased frontal SAH, otherwise unchanged
   hematomas and herniation
   [**8-30**] CT head - unchanged multifocal hemorrhages, with mild increase in
   perihemorrhagic edema, persistent mild L uncal herniation
   [**8-31**] CT abd - No evid for intra-abdominal or intrapelvic hemorrhage.
   Persistent mod pelvic free fluid appears simple. L gastric wall edema
   with gallbladder edema likely fluid resuscitation. Small B pleural
   effusions. Suggestion of filling defects along the course of the left
   common iliac and external iliac veins possibly representing
   nonocclusive thromboses, although these appear to be external to the
   vein on coronal and sagittal reformations
   [**9-1**] LENI - NO DVT in LLE
   Microbiology: [**8-29**] BAL with
   STAPH AUREUS COAG +.    10,000-100,000 ORGANISMS/ML..
   HAEMOPHILUS INFLUENZAE.    >100,000 ORGANISMS/ML..
   GRAM NEGATIVE ROD(S).    10,000-100,000 ORGANISMS/ML..
   [**8-27**] Bld cx x2, UCx, Sputum Cx all NGTD
   Assessment and Plan
   HPI: 45yo M s/p 20ft fall off roof with head trauma, + LOC.
   ISSUES:
   (1) Intracranial injuries s/p bolt, basilar skull frx
   (2) Left Rib frx, L acromium frx, L scapular frx
   (3) L pneumothorax s/p chest tube
   (4) Pneumonia
   Neurologic: Neuro checks Q: 4 hr, Phenytoin - therapeutic, On Ativan
   for agitation, propofol gtt, Percocet/Morphine PRN pain, plan. Recieved
   MVI, Folic Acid, Thiamine, ? epidural today for pain control
   Cardiovascular: HD Stable
   Pulmonary: Likely pneumonia, on Vanc/Zosyn.  U/S pleural effusion,
   epidural, possible extubation, otherwise trach tomorrow
   Gastrointestinal / Abdomen: Soft, non-tender, no further BRBPR
   Nutrition: Tube feeding @ goal 60 cc/hr
   Renal: Foley, Adequate UO
   Hematology: Serial Hct, stable.
   Endocrine: RISS
   Infectious Disease: Check cultures, Continue to follow BAL, on
   Vanc/Zosyn since [**8-29**]
   Lines / Tubes / Drains: Foley, NGT, ETT, L CT, PICC
   Wounds: Dry dressings
   Imaging: CXR today
   Fluids: KVO
   Consults: Trauma surgery, Vascular surgery, Ortho, GI
   Billing Diagnosis:  Respiratory Failure time 30 minutes
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-9-2**] 10:55 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2161-9-1**] 12:33 PM
   20 Gauge - [**2161-9-1**] 12:35 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU